US07358248B2
Step 5: Preparation of (R)-2-tert-Butoxycarbonyl-3-(4′-dibenzofuran-4-yl-biphenyl-4-ylmethylsulfanyl)-propionic acid
2 N Sodium hydroxide solution (1.32 mL, 2.64 mmol) was added dropwise to a stirred solution of methyl-2-tert-butoxycarbonylamino-3-(4′-dibenzofuran-4-yl-biphenyl-4-ylmethylsulfanyl)propionate (500 mg, 0.88 mmol) in tetrahydrofuran (15 mL) and methanol (3 mL). The clear reaction mixture was stirred at room temperature until the reaction was complete (TLC control), and then diluted with water (10 mL), and acidified to pH 3 with 2 N hydrochloric acid. The reaction mixture was extracted with ethyl acetate (2×20 mL). The combined organic extracts were washed with water, sat'd aq NaCl, dried over anhyd MgSO4, filtered and concentrated in vacuo. Purification by flash column chromatography (5-10% methanol in methylene chloride) afforded the title compound has a white solid (420 mg), mp 205-206° C.

reactant | Sodium hydroxide | 2.64 mmol, 2 N, 1.32 mL | [OH-].[Na+]
reactant | methyl-2-tert-butoxycarbonylamino-3-(4′-dibenzofuran-4-yl-biphenyl-4-ylmethylsulfanyl)propionate | 0.88 mmol, 500 mg | COC(C(CSCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)NC(=O)OC(C)(C)C)=O | C34H33NO5S
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | methanol | 3 mL | CO | CH4O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | (R)-2-tert-Butoxycarbonyl-3-(4′-dibenzofuran-4-yl-biphenyl-4-ylmethylsulfanyl)-propionic acid | C(C)(C)(C)OC(=O)[C@@H](C(=O)O)CSCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1 | C33H30O5S
